US06376711B1
(2RS,3SR)-N-Chloroacetyl-3-(2-ethoxyphenoxy)-2-hydroxy-3-phenylpropylamine (VIII)
(2RS,3RS)-1,2-Epoxy-3-(2-ethoxyphenoxy)-3-phenylpropane (47.7 g) and dimethyl carbonate (700 mL) were stirred to form a white slurry. Triethylamine (52 mL) was added and the mixture cooled to 6-10° C. using an ice/H2O bath, a solution of chloroacetyl chloride (13.8 mL) in dimethyl carbonate (50 mL) was added over a 30 minute period keeping the temperature between 4-10° C. The mixture was stirred for 1 hour. The mixture was washed with 500 mL of H2O and then with 500 mL of 3% aqueous NaCl solution. The organic layer was concentrated under vacuum at 40° C. to yield a dark oil. Isopropanol (500 mL) was added and the mixture again concentrated to remove any residual dimethyl carbonate, yielding the title compound.

reactant | (2RS,3RS)-1,2-Epoxy-3-(2-ethoxyphenoxy)-3-phenylpropane | 47.7 g | O1CC1C(C1=CC=CC=C1)OC1=C(C=CC=C1)OCC | C17H18O3
reactant | Triethylamine | 52 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 13.8 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | Isopropanol | 500 mL | C(C)(C)O | C3H8O
solvent | dimethyl carbonate | 50 mL | C(OC)(OC)=O | C3H6O3
solvent | dimethyl carbonate | 700 mL | C(OC)(OC)=O | C3H6O3
product | (2RS,3SR)-N-Chloroacetyl-3-(2-ethoxyphenoxy)-2-hydroxy-3-phenylpropylamine | ClCC(=O)NCC(C(C1=CC=CC=C1)OC1=C(C=CC=C1)OCC)O | C19H22ClNO4
